US08536173B2
14.37 g of tert-butyl ester of 4-cyclopropanesulfonyl-piperazine-1-carboxylic acid is put in a 2-liter three-necked flask, under nitrogen atmosphere. 412 ml of dichloromethane is added. The reaction mixture is cooled in an ice bath and 4M hydrochloric acid in solution in dioxane is added dropwise. The reaction mixture is allowed to return gradually to room temperature. The reaction mixture is stirred for 2.5 h, then evaporated and concentrated. The residue is taken up in a small amount of ethyl ether, triturated and then filtered and dried. 10.25 g of 1-cyclopropanesulfonyl-piperazine hydrochloride is obtained in the form of a white powder.

reactant | 4-cyclopropanesulfonyl-piperazine-1-carboxylic acid | C1(CC1)S(=O)(=O)N1CCN(CC1)C(=O)O | C8H14N2O4S
reactant | dichloromethane | 412 ml | ClCCl | CH2Cl2
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-cyclopropanesulfonyl-piperazine hydrochloride | 10.25 g | Cl.C1(CC1)S(=O)(=O)N1CCNCC1 | InChI=1S/C7H14N2O2S.ClH/c10-12(11,7-1-2-7)9-5-3-8-4-6-9;/h7-8H,1-6H2;1H
